US08754089B2
A heterogeneous mixture of (3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate (4.2444 g, 13.64 mmol), concd. HCl (3.87 mL, 46.4 mmol), and 1,4-dioxane (39.0 mL) was heated with stirring at 70° C. After 3 h, the mixture was cooled to rt and the mixture was concd under reduced pressure. The residue was diluted with water (100 mL) and the pH adjusted to 10 with 28% ammonium hydroxide (10 mL). The precipitate was filtered, washed with water (200 mL), and dried under high vacuum to give 3-bromo-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one as a tan solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.74 (1 H, dd, J=8.8, 6.8 Hz), 7.49 (1 H, dd, J=9.0, 0.8 Hz), 7.01-7.06 (1 H, m), 5.24 (1 H, t, J=6.1 Hz), 4.52 (2 H, d, J=6.3 Hz), 2.96 (3 H, s); Mass Spectrum (ESI) m/e=268.9 [M+1 (79Br)] and 271.0 [M+1 (81Br)].

reactant | (3-bromo-6-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl acetate | 13.64 mmol, 4.2444 g | C(C)(=O)OCC=1N=C2N(C(C1Br)=O)C(=CC=C2)C | C12H11BrN2O3
reactant | HCl | 46.4 mmol, 3.87 mL | Cl | ClH
reactant | 1,4-dioxane | 39.0 mL | O1CCOCC1 | C4H8O2
reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 3-bromo-2-(hydroxymethyl)-6-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | BrC1=C(N=C2N(C1=O)C(=CC=C2)C)CO | C10H9BrN2O2
